US06498169B1
Synthesis of 1-Bromo-4-chloro-3,5-dimethoxybenzene
A solution of sodium nitrite (97 mg) in water (2.0 mL) was added dropwise to an ice-cold suspension of 4-bromo-2,6-dimethoxyaniline (232 mg) in 6.0 M hydrochloric acid (2.5 mL). After stirring in ice for 30 minutes, a solution of cupric chloride (495 mg) in concentrated hydrochloric acid (2.0 mL) was added. The reaction mixture was stirred at room temperature for 30 minutes, then at 100° C. for 2 hours, and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate and water, dried over anhydrous sodium sulfate, and evaporated. The residue was subjected to a column of silica gel using hexane-ethyl acetate (10:1) as an eluent to give the title compound as white powder.

reactant | sodium nitrite | 97 mg | N(=O)[O-].[Na+]
reactant | 4-bromo-2,6-dimethoxyaniline | 232 mg | BrC1=CC(=C(N)C(=C1)OC)OC | C8H10BrNO2
reactant | hydrochloric acid | 6.0 M, 2.5 mL | Cl | ClH
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
solvent | water | 2.0 mL | O | H2O
product | 1-Bromo-4-chloro-3,5-dimethoxybenzene | BrC1=CC(=C(C(=C1)OC)Cl)OC | C8H8BrClO2
